US09238631B2
d) Di-tert-butyl (4R)—N-(tert-butoxycarbonyl)-4-{[5-(3-hydroxypropyl)pyridin-2-yl]methyl}-L-glutamate
To a solution of di-tert-butyl (4R)—N-(tert-butoxycarbonyl)-4-{[5-(3-{[tert-butyl(dimethyl)silyl]oxy}propyl)pyridin-2-yl]methyl}-L-glutamate (140 mg, 0.23 mmol) in tetrahydrofuran (7 ml) was added acetic acid (80 μl, 1.40 mmol). The solution was cooled to 0° C., and tetra-n-butylammonium fluoride (1M in tetrahydrofuran, 674 μl) was added dropwise. The cooling bath was removed and the reaction was stirred overnight, then mixed with 1 N aqueous sodium hydrogen carbonate solution (20 ml), and extracted with dichloromethane (3×20 ml). The organic phases were washed with brine (10 ml), dried over sodium sulfate and concentrated in vacuo. The crude material was used without further purification.

reactant | di-tert-butyl (4R)—N-(tert-butoxycarbonyl)-4-{[5-(3-{[tert-butyl(dimethyl)silyl]oxy}propyl)pyridin-2-yl]methyl}-L-glutamate | 0.23 mmol, 140 mg | C(C)(C)(C)OC(=O)N[C@@H](C[C@@H](C(=O)OC(C)(C)C)CC1=NC=C(C=C1)CCCO[Si](C)(C)C(C)(C)C)C(=O)OC(C)(C)C | C33H58N2O7Si
reactant | acetic acid | 1.40 mmol, 80 μl | C(C)(=O)O | C2H4O2
reactant | tetra-n-butylammonium fluoride | 1M, 674 μl | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
product | Di-tert-butyl (4R)—N-(tert-butoxycarbonyl)-4-{[5-(3-hydroxypropyl)pyridin-2-yl]methyl}-L-glutamate | C(C)(C)(C)OC(=O)N[C@@H](C[C@@H](C(=O)OC(C)(C)C)CC1=NC=C(C=C1)CCCO)C(=O)OC(C)(C)C | C27H44N2O7
